US06887896B1
(2E,4E,6E)-7-(4-Chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)6-fluoro-3-methyl-octa-2,4,6-trienoic acid (Compound A-177)
As described in General Procedure J-1, ethyl (2E,4E,6E)-7-(4-chloro-3-ethoxy 8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-6-fluoro-3-methyl-octa-2,4,6-trienoate (Compound A-166, 0.14 g, 0.30 mmol) was hydrolyzed with 1 N NaOH to produce the title compound as a yellow solid after recrystallization from acetonitrile.

reactant | ethyl (2E,4E,6E)-7-(4-chloro-3-ethoxy 8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-6-fluoro-3-methyl-octa-2,4,6-trienoate | 0.30 mmol, 0.14 g | ClC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C=C\C(=C\C(=O)OCC)\C)/F)/C)OCC | C28H36ClFO3
reactant | NaOH | 1 N | [OH-].[Na+]
product | (2E,4E,6E)-7-(4-Chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)6-fluoro-3-methyl-octa-2,4,6-trienoic acid | ClC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C=C\C(=C\C(=O)O)\C)/F)/C)OCC | C26H32ClFO3
